US09035059B2
6-(2,2,2-Trifluoroethoxy)pyridine-3-carbaldehyde
Diisobutylaluminum hydride (toluene solution, 1.01 mol/L, 1.95 mL, 1.97 mmol) was added dropwise to a solution of N-methoxy-N-methyl-6-(2,2,2-trifluoroethoxy)pyridine-3-carboxamide obtained (432 mg, 1.64 mmol) in toluene (11 mL) at −78° C. under a nitrogen atmosphere. The mixture was stirred at the same temperature for 1 hr. Methanol (5 mL) was added dropwise to the reaction mixture, the mixture was warmed to room temperature, and 50% aqueous Rochelle salt solution (10 mL) was added thereto, followed by stirring for 1.5 hr. The mixture was extracted with chloroform and the organic layer was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1→7:3) to afford the title compound as a colorless solid (287 mg).

reactant | Diisobutylaluminum hydride | 1.97 mmol, 1.01 mol/L, 1.95 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | N-methoxy-N-methyl-6-(2,2,2-trifluoroethoxy)pyridine-3-carboxamide | CON(C(=O)C=1C=NC(=CC1)OCC(F)(F)F)C | C10H11F3N2O3
reactant | Methanol | 5 mL | CO | CH4O
reactant | Rochelle salt | 10 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | toluene | 11 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(2,2,2-Trifluoroethoxy)pyridine-3-carbaldehyde | 287 mg | FC(COC1=CC=C(C=N1)C=O)(F)F | C8H6F3NO2
